US06211215B1
In substantially the same manner as in Working Example 72, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with 4-chloromethyl-2-[(E)-2-(2-furyl)ethenyl]oxazole to give 2-[(E)-2-(2-furyl)ethenyl]-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole. The yield was 70%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 122-123° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 4-chloromethyl-2-[(E)-2-(2-furyl)ethenyl]oxazole | ClCC=1N=C(OC1)\C=C\C=1OC=CC1 | C10H8ClNO2
product | 2-[(E)-2-(2-furyl)ethenyl]-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole | yield was 70% | O1C(=CC=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCN1C=NC=C1 | C22H21N3O3
